US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,3-difluorobenzamide
To a stirred solution of 0,350 g of 2,3-difluorobenzoyl chloride in 5 ml of methylene chloride is added 0.346 ml of triethylamine. After stirring for 3 minutes, 0,500 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is added and stirring continued for 72 hours. The reaction mixture is filtered and the solid washed with methylene chloride. The solid is saved. The combined filtrate is washed with water, 2N citric acid, 1M NaHCO3, and brine. The reaction mixture is dried with Na2SO4, filtered and evaporated in vacuo to give 100 mg of a solid. The two solids are combined and dried to afford 790 mg of the desired product as a solid, m.p. 252°-258° C.

reactant | 2,3-difluorobenzoyl chloride | 0,350 g | FC1=C(C(=O)Cl)C=CC=C1F | C7H3ClF2O
reactant | triethylamine | 0.346 ml | C(C)N(CC)CC | C6H15N
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0,500 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,3-difluorobenzamide | 100 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C(=CC=C1)F)F)=O | C26H19F2N3O2
